* N:\elektronik\radios\saba fernbedienung\simulation\suchlauf_schalter_digital.asc
V1 0 b SINE(0 21 50 0 0 0 1000)
V2 a 0 SINE(0 21 50 0 0 0 1000)
D2 a +vs MBRS1100
C3 +vs 0 100µ
XU1 N008 N005 +vs -vs N005 ADA4522-1
C6 +vs 0 100n
R13 s N003 1m
D6 N007 out_aplitude 1N4148
C9 out_aplitude 0 470n
R12 out_aplitude 0 100k
D3 N010 N008 TFZ39B
C4 N006 N005 470n
R14 0 N006 22k
R1 N001 a 1k
R2 N009 b 1k
R3 N001 N002 12k5
R4 N002 N004 10k
R5 N004 N009 12k5
D1 b N016 D
R6 N016 saba_gnd 2k
C1 0 saba_gnd 50µ
R7 N011 0 25k
R8 N011 saba_gnd 30k
R9 N012 N011 5Meg
R10 N012 saba_gnd 1Meg
R11 G1 N012 2Meg
C2 N011 saba_gnd 50µ
R16 N013 G1 2Meg
R17 N003 N013 2Meg
C7 N013 saba_gnd 250n
D4 N010 0 TFZ39B
D5 -vs b MBRS1100
C5 0 -vs 100µ
C8 0 -vs 100n
R15 N007 N006 1k
R18 s N008 22k
XU2 N018 N014 +vs -vs N015 ADA4522-1
R19 N015 N014 100k
R20 N014 N006 100k
R21 N018 a 100k
R22 0 N018 100k
D7 N017 out_pase 1N4148
C10 out_pase 0 470n
R23 out_pase 0 1Meg
R24 N017 N015 1k
D8 N019 N018 TFZ39B
D9 N019 0 TFZ39B
S1 N003 N001 s1 0 MYSW
S2 N002 N003 s2 0 MYSW
S3 N004 N003 s3 0 MYSW
S4 N009 N003 s4 0 MYSW
V3 s1 0 PULSE(0 1 1 1m 1m 1 10 1)
V4 s2 0 PULSE(0 1 1 1m 1m 1 2 2)
V5 s3 0 PULSE(0 1 7 1m 1m 1 2 2)
V6 s4 0 PULSE(0 1 7 1m 1m 1 10 1)
.model D D
.lib C:\users\martin\Meine Dokumente\LTspiceXVII\lib\cmp\standard.dio
.tran 10
* links suchen S2\nlinks laufen S1 + S2\nrechts suchen S3\nrechts laufen S3 + S4
* Buffer
* s1
* s2
* s3
* s4
.model MYSW SW(Ron=1m Roff=100Meg Vt=.5 Vh=-.4)
.lib ADI.lib
.backanno
.end
